### PR TITLE
feat(CanonicalEnsemble):add params to CanonicalEnsemble struct + refactor

### PR DESCRIPTION
**Pull request by or4nge19**
This PR refines the general measure-theoretic framework for the canonical ensemble, applicable to both classical continuous systems (like an ideal gas) and discrete systems (like a spin lattice). It introduces additional parameters to the CanonicalEnsemble structure and various distinctions between entropy and proves some key thermodynamics identities.

We follow the *semi-classical* approach in Landau-Lefschetz and also in Tong's lecture notes in designing a general API (for this initial level of analysis) to handle both discrete and continuous systems. The explicitation of a classical principled exposition like L&L constrained us to distinguish two layers:

Mathematical layer: Raw partition function `∫ exp(-βE) dμ`, probability densities w.r.t. base measure  
Physical layer: Dimensionless thermodynamic quantities via `phaseSpaceUnit^dof` normalization

This seems to be a more clear way to analyze the presuppositions of the classical theory that pre-empt ambiguity issues (Gibbs paradox) by making entropy absolute rather than relative.

 Main additions :

New parameters to the `CanonicalEnsemble` structure:
- `phaseSpaceUnit : ℝ` (physically Planck's constant h)  
- `dof : ℕ` (degrees of freedom)

Thermodynamic quantities:
- `partitionFunction = mathematicalPartitionFunction / h^dof`
- `helmholtzFreeEnergy = -kT log Z` 
- `thermodynamicEntropy` (absolute) vs `differentialEntropy` (can be negative)
- `physicalProbability = probability * h^dof` (dimensionless)

 Main results and corollaries from L&L and Tong's notes that we prove in  the file`Lemmas`  are:

-  *Fundamental identity*: `F = U - TS` (theorem `helmholtzFreeEnergy_eq_meanEnergy_sub_temp_mul_thermodynamicEntropy`)  
-  *Response formula**: `U = -∂log Z/∂β` (theorem `meanEnergy_eq_neg_deriv_log_mathZ_of_beta`)  
-  *Entropy relations*: `S_thermo = S_diff - k·dof·log h` with semi-classical correction

 Finite case (`IsFinite`) specializations

Specialization where `dof = 0`, `phaseSpaceUnit = 1`, where we show:
- Shannon entropy = differential entropy = thermodynamic entropy
- No semi-classical corrections needed
- Unconditional entropy non-negativity

As designed here the introduction of this necessary semi-classical correction `k·dof·log h` appears systematically where needed and vanishes in the discrete case.

### CODE REVIEW

**Comment by or4nge19** [comment]
not that it matters now but do you think we should make the naming conventions consistent with mathlib ones ? Perhaps this would be more of a distraction at this stage...but should a good reason arise to have PhysLean naming consistent with mathlib, the earlier the better
https://leanprover-community.github.io/contribute/naming.html

File: PhysLean/StatisticalMechanics/CanonicalEnsemble/Basic.lean [hunk 1]
```diff
@@ -254,7 +334,7 @@ lemma μBolt_nsmul [SigmaFinite 𝓒.μ] (n : ℕ) (T : Temperature) :
     rw [ih]
     exact MeasureTheory.measurePreserving_piFinSuccAbove (fun _ => 𝓒.μBolt T) 0
 
-lemma μBolt_ne_zero_of_μ_ne_zero (T : Temperature) (h : 𝓒.μ ≠ 0) :
+  lemma μBolt_ne_zero_of_μ_ne_zero (T : Temperature) (h : 𝓒.μ ≠ 0) :
```
Comment (jstoobysmith) [inline PhysLean/StatisticalMechanics/CanonicalEnsemble/Basic.lean]: Can we remove this added space?

File: PhysLean/StatisticalMechanics/CanonicalEnsemble/Basic.lean [hunk 2]
```diff
@@ -631,17 +700,309 @@ lemma differentialEntropy_nonneg_of_prob_le_one
...
+noncomputable def helmholtzFreeEnergy (T : Temperature) : ℝ :=
+  - kB * T.val * Real.log (𝓒.partitionFunction T)
+
+/-- The absolute thermodynamic entropy, defined via the fundamental relation `S = (U - F) / T`.
+
+The hypothesis `hT : 0 < T.val` encodes the physically required strict positivity of the
+temperature. It is intentionally retained (even though not needed for mere division by `T.val`)
+so that subsequent lemmas may rely on it (e.g. for monotonicity, differentiability,
+or asymptotic considerations near absolute zero). We mark it as an unused argument explicitly. -/
+noncomputable def thermodynamicEntropy (T : Temperature) (hT : 0 < T.val) : ℝ :=
```
Comment (jstoobysmith) [inline PhysLean/StatisticalMechanics/CanonicalEnsemble/Basic.lean]: Here I still think we should define the entropy as L&L do it in equation 7.12 and then show that it is equal to this.

File: PhysLean/StatisticalMechanics/CanonicalEnsemble/Basic.lean [hunk 3]
```diff
@@ -631,17 +700,309 @@ lemma differentialEntropy_nonneg_of_prob_le_one
...
+
+/-!
+
+## Relations between Mathematical and Thermodynamic Quantities
+
+-/
+
+/-- An intermediate potential defined from the mathematical partition function. See
+`helmholtzFreeEnergy` for the physical thermodynamic quantity. -/
+noncomputable def helmholtzPotential (T : Temperature) : ℝ :=
```
Comment (jstoobysmith) [inline PhysLean/StatisticalMechanics/CanonicalEnsemble/Basic.lean]: Wouldn't mathematicalHelmholtzFreeEnergy be more consistent?

File: PhysLean/StatisticalMechanics/CanonicalEnsemble/Basic.lean [hunk 4]
```diff
@@ -12,32 +12,84 @@ import Mathlib.Analysis.SpecialFunctions.Log.Summable
...
-  and a map `ι → ℝ` which associates which each microstate an energy. -/
+and a map `ι → ℝ` which associates which each microstate an energy
+and physical constants needed to define dimensionless thermodynamic quantities. -/
 structure CanonicalEnsemble (ι : Type) [MeasurableSpace ι] : Type where
   /-- The energy of associated with a mircrostate of the canonical ensemble. -/
   energy : ι → ℝ
+  /-- The number of degrees of freedom, used to make the partition function dimensionless.
+  For a classical system of N particles in 3D, this is `3N`. For a system of N spins,
+  this is typically `0` as the state space is already discrete. -/
+  dof : ℕ
```
Comment (jstoobysmith) [inline PhysLean/StatisticalMechanics/CanonicalEnsemble/Basic.lean:119]: It would be good if we could some how get the dof from the dimension of iota, but I understand this might be difficult and what you have done might be the best solution here.

**Comment by jstoobysmith** [comment]
> not that it matters now but do you think we should make the naming conventions consistent with mathlib ones ? Perhaps this would be more of a distraction at this stage...but should a good reason arise to have PhysLean naming consistent with mathlib, the earlier the better https://leanprover-community.github.io/contribute/naming.html

The naming conversation should be matching that of Mathlib, expect naturally things are named after their physics context not their maths context. Do you have an example where this isn't followed?

--
I first noticed this in CanonicalEnsemble that the structure fields were not in camelCase, and some not as rigorous choice of naming to avoid ambiguities, but I'm probably the most guilty one...I'll try to focus on the naming conventions more as I navigate through the repo

File: PhysLean/StatisticalMechanics/CanonicalEnsemble/Basic.lean (hunk 2 above)
Comment (or4nge19) [reply PhysLean/StatisticalMechanics/CanonicalEnsemble/Basic.lean]: yes 100%

**Comment by jstoobysmith** [comment]
Yeah, for example `phase_space_unit` should be `phaseSpaceUnit` here

File: PhysLean/StatisticalMechanics/CanonicalEnsemble/Basic.lean (hunk 4 above)
Comment (or4nge19) [reply PhysLean/StatisticalMechanics/CanonicalEnsemble/Basic.lean:119]: Sure, though I'm happy to postpone it as it requires building a significant hierarchy of typeclasses to teach Lean what a 'phase space' is. We can put it among the TODOs (there are a few I want to add at the last commit), but I suspect the need will awyway arise soon in the development

**Comment by or4nge19** [comment]
> Yeah, for example `phase_space_unit` should be `phaseSpaceUnit` here

If ok for you, I'll update the naming conventions so we can review them as the last commit, if/when all the other matters have been agreed upon.

File: PhysLean/StatisticalMechanics/CanonicalEnsemble/Basic.lean (hunk 4 above)
Comment (jstoobysmith) [reply PhysLean/StatisticalMechanics/CanonicalEnsemble/Basic.lean:119]: sounds good to me

File: PhysLean/StatisticalMechanics/CanonicalEnsemble/Basic.lean [hunk 5]
```diff
@@ -10,34 +10,120 @@ import PhysLean.Meta.Informal.SemiFormal
...
+  /-- The unit of action used to make the phase space volume dimensionless.
+  This constant is necessary to define an absolute (rather than relative) thermodynamic
+  entropy. In the semi-classical approach, this unit is identified with Planck's constant `h`.
+  For discrete systems with a counting measure, this unit should be set to `1`. -/
+  phase_space_unit : ℝ := 1
```
Comment (jstoobysmith) [inline PhysLean/StatisticalMechanics/CanonicalEnsemble/Basic.lean]: Adding a comment, so we remember to rename

File: PhysLean/StatisticalMechanics/CanonicalEnsemble/Basic.lean (hunk 1 above)
Comment (jstoobysmith) [reply PhysLean/StatisticalMechanics/CanonicalEnsemble/Basic.lean]: Still to be done.

File: PhysLean/StatisticalMechanics/CanonicalEnsemble/Basic.lean [hunk 6]
```diff
@@ -631,17 +733,300 @@ lemma differentialEntropy_nonneg_of_prob_le_one
...
+          rw [hlog]
+    _ = (n : ℝ) * (-kB * T.val * Real.log (𝓒.partitionFunction T)) := by
+          ring
+    _ = n * 𝓒.helmholtzFreeEnergy T := by
+          simp [helmholtzFreeEnergy, mul_comm, mul_left_comm, mul_assoc]
+
+/-- The dimensionless physical probability density. This is obtained by dividing the
+phase space measure by the fundamental unit `h^dof`, making the probability
+density `ρ_phys = ρ_math * h^dof` dimensionless. -/
+noncomputable def physicalProbability (T : Temperature) (i : ι) : ℝ :=
```
Comment (jstoobysmith) [inline PhysLean/StatisticalMechanics/CanonicalEnsemble/Basic.lean:908]: In the doc-string can we say it is the probability density with respect to the measure....

File: PhysLean/StatisticalMechanics/CanonicalEnsemble/Lemmas.lean [hunk 7]
```diff
@@ -0,0 +1,735 @@
...
+  rcases hNorm with hDof | hUnit
+  · -- dof = 0
+    simp [hmain, hDof]
+  · -- phase_space_unit = 1 ⇒ log = 0
+    simp [hmain, hUnit]
+
+open scoped Topology ENNReal
+
+/-- Positivity of `β` from positivity of temperature. -/
+lemma beta_pos (T : Temperature) (hT_pos : 0 < T.val) : 0 < (T.β : ℝ) := by
```
Comment (jstoobysmith) [inline PhysLean/StatisticalMechanics/CanonicalEnsemble/Lemmas.lean]: Could we move this to the Temperature file

File: PhysLean/StatisticalMechanics/CanonicalEnsemble/Lemmas.lean [hunk 8]
```diff
@@ -0,0 +1,735 @@
...
+    _ = (∫ x, 𝓒.energy x * Real.exp (- T.β * 𝓒.energy x) ∂ 𝓒.μ) /
+          (∫ x, Real.exp (- T.β * 𝓒.energy x) ∂ 𝓒.μ) := by
+          simp [h_den, div_eq_mul_inv, mul_comm, mul_left_comm, mul_assoc]
+
+/-- The mean energy is the negative derivative of the logarithm of the
+(mathematical) partition function with respect to β = 1/(kB T).
+see: Tong (§1.3.2, §1.3.3), L&L (§31, implicitly, and §36)
+Here the derivative is a `derivWithin` over `Set.Ioi 0`
+since `β > 0`. -/
+theorem meanEnergy_eq_neg_deriv_log_mathZ_of_beta
```
Comment (jstoobysmith) [inline PhysLean/StatisticalMechanics/CanonicalEnsemble/Lemmas.lean]: Maybe make this one a lemma rather than a theorem?

**Comment by or4nge19** [comment]
with this last push I have renamed the CanonicalEnsemble structure field's parameters following mathlib naming conventions. I have not made any other renaming to avoid a rabbit-hole for the time being...
I have reverted/reapply because there was a conflict to resolve (now fixed), but no change from f3d9dfb

**Comment by or4nge19** [comment]
also let me mention that CanonicalEnsemble is now a provider of present and future free API to the (physical) neural network implementation in the SpinGlasses draft PR branch.
https://github.com/HEPLean/PhysLean/blob/272eb00b50de3a4db986abdc009aefdec92fec48/PhysLean/StatisticalMechanics/SpinGlasses/HopfieldNetwork/toCanonicalEnsemble.lean
https://github.com/HEPLean/PhysLean/blob/272eb00b50de3a4db986abdc009aefdec92fec48/PhysLean/StatisticalMechanics/SpinGlasses/HopfieldNetwork/DetailedBalanceBM.lean

File: PhysLean/StatisticalMechanics/CanonicalEnsemble/Basic.lean [hunk 9]
```diff
@@ -10,35 +10,121 @@ import PhysLean.Meta.Informal.SemiFormal
...
+  this is typically `0` as the state space is already discrete. -/
+  dof : ℕ
+  /-- The unit of action used to make the phase space volume dimensionless.
+  This constant is necessary to define an absolute (rather than relative) thermodynamic
+  entropy. In the semi-classical approach, this unit is identified with Planck's constant `h`.
+  For discrete systems with a counting measure, this unit should be set to `1`. -/
+  phaseSpaceunit : ℝ := 1
+  /-- Assumption that the phase space unit is positive. -/
+  hPos : 0 < phaseSpaceunit := by positivity
+  energyMeasurable : Measurable energy
```
Comment (jstoobysmith) [inline PhysLean/StatisticalMechanics/CanonicalEnsemble/Basic.lean]: this is a lemma so should be energy_measurable

**Review by jstoobysmith — COMMENTED** [review]
Add a single comment, otherwise all looks good

**Review by jstoobysmith — APPROVED** [review]
Approved.
